US07557103B2
F. 8-(1-Ethyl-propyl)-2,6-dimethyl-3-{8-(1-ethylpropyl)-2-methyl-6-trifluoromethyl-imidazo[1,2-b]pyridazin-3-yl}imidazo[1,2-b]pyridazine
Using a procedure analogous to Example 16B, 8-(1-ethyl-propyl)-3-iodo-2-methyl-6-trifluoromethyl-imidazo[1,2-b]pyridazine (0.15 g, 0.37 mmol) and 8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.082 g, 0.37 mmol) give the title compound (0.096 g, 0.19 mmol, 53%). 1H NMR (CDCl3): δ 0.89-0.97 (m, 12H), 1.80-1.97 (m, 8H), 2.47 (bs, 6H), 2.54 (s, 3H), 3.35-3.45 (m, 1H), 3.47-3.55 (m, 1H), 6.73 (s, 1H), 7.10 (s, 1H). ES-MS (m/z): calcd for C26H33F3N6 (M+H)+: 487.6. found: 487.3.

reactant | 8-(1-ethyl-propyl)-3-iodo-2-methyl-6-trifluoromethyl-imidazo[1,2-b]pyridazine | 0.37 mmol, 0.15 g | C(C)C(CC)C=1C=2N(N=C(C1)C(F)(F)F)C(=C(N2)C)I | C13H15F3IN3
reactant | 8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.37 mmol, 0.082 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C=C(N2)C | C13H19N3
product | 8-(1-Ethyl-propyl)-2,6-dimethyl-3-{8-(1-ethylpropyl)-2-methyl-6-trifluoromethyl-imidazo[1,2-b]pyridazin-3-yl}imidazo[1,2-b]pyridazine | 0.19 mmol, 0.096 g, 53% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C1N2N=C(C=C1C(CC)CC)C(F)(F)F)C | C26H33F3N6
